US07696210B2
(4-Fluoro-3-nitro-phenyl)-methanol
4-Fluoro-3-nitro-benzoic acid (185 mg, 1 mmol) was dissolved in THF (2 ml) and cooled to 0° C. under a nitrogen atmosphere. A Borane/THF solution (2 ml of a 1M solution, 2 mmol) was added dropwise, and the reaction mixture was heated to reflux for 1 h. The reaction was judged complete and quenched with 3N HCl (0.5 ml) and the solvent was removed under vacuum. The reaction mixture was partitioned between ethyl acetate and a sodium carbonate solution. The organic layer was washed with carbonate two additional times, and then it was washed with brine. It was dried over MgSO4, and the solvent was removed to yield the title product (160 mg (95%), 0.94 mmol). 1H NMR (DMSO-d6): δ=8.10 (s, 1H), 7.62 (d, J=7.3 Hz, 1H), 7.32 (d, J=7.3 Hz, 1H), 4.82 (d, J=4.5 Hz, 2H).

reactant | 4-Fluoro-3-nitro-benzoic acid | 1 mmol, 185 mg | FC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | Borane THF | B.C1CCOC1
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | (4-Fluoro-3-nitro-phenyl)-methanol | 0.94 mmol, 160 mg, 95% | FC1=C(C=C(C=C1)CO)[N+](=O)[O-] | C7H6FNO3
